US09359362B2
7-(4-Cyanophenyl)-5-methyl-2-(propan-2-yl)-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon, 3-isopropyl-1H-1,2,4-triazole-5-amine (241 mg, 1.9 mmol) and 4-(2-cyano-3-oxobut-1-en-1-yl)benzonitrile (300 mg, 1.5 mmol, 0.8 eq.) were dissolved in DMF (3 ml), and solid sodium bicarbonate (803 mg, 9.6 mmol, 5 eq.) was added. The mixture was stirred at 55° C. overnight. The mixture was then filtered and the DMF was distilled off from the filtrate under reduced pressure. The residue was suspended in methanol (2 ml), and the solid was then filtered off and dried under high vacuum (34 mg, 7% of theory). The filtrate was acidified with 1 N hydrochloric acid and purified by preparative HPLC (Kromasil C18 column, 30×250 mm; mobile phase: acetonitrile-water-0.1% TFA), which gave a second product fraction (67 mg, 13% of theory) as a solid.

reactant | 3-isopropyl-1H-1,2,4-triazole-5-amine | 1.9 mmol, 241 mg | C(C)(C)C1=NNC(=N1)N | C5H10N4
reactant | 4-(2-cyano-3-oxobut-1-en-1-yl)benzonitrile | 1.5 mmol, 300 mg, 0.8 eq. | C(#N)C(=CC1=CC=C(C#N)C=C1)C(C)=O | C12H8N2O
reactant | sodium bicarbonate | 9.6 mmol, 803 mg, 5 eq. | C([O-])(O)=O.[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 7-(4-Cyanophenyl)-5-methyl-2-(propan-2-yl)-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)C(C)C)C)C#N | C17H16N6
